### PR TITLE
[Merged by Bors] - feat(Normed/Field): `completeSpace_iff_isComplete_closedBall`

### PR DESCRIPTION
**Pull request by pechersky**
On the way to locally complete K iff complete O(K) 
Also add some helper lemmas about uniform continuity of multiplication by a constant with a variant for rings (via smul) instead of UniformGroup (which fields are not).

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 1]
```diff
@@ -852,6 +852,46 @@ example [Monoid β] (φ : β →* α) {x : β} {k : ℕ+} (h : x ^ (k : ℕ) = 1
...
+  · contrapose! hx
+    simp [hx]
+  · have : IsOpen {(0 : 𝕜)} := isOpen_discrete {0}
+    simp_rw [Metric.isOpen_singleton_iff, dist_eq_norm, sub_zero] at this
+    obtain ⟨ε, εpos, h'⟩ := this
+    wlog h : ‖x‖ < 1 generalizing 𝕜 with H
+    · push_neg at h
+      rcases h.eq_or_lt with h|h
+      · rw [h]
+      replace h := norm_inv x ▸ _root_.inv_lt_one_iff.mpr (Or.inr h)
```
Comment (Ruben-VandeVelde) [inline Mathlib/Analysis/Normed/Field/Basic.lean:872]:
```suggestion
      replace h := norm_inv x ▸ inv_lt_one h
```

**Review by Ruben-VandeVelde — APPROVED** [review]
maintainer merge

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 2]
```diff
@@ -669,6 +669,46 @@ theorem nndist_inv_inv₀ {z w : α} (hz : z ≠ 0) (hw : w ≠ 0) :
     nndist z⁻¹ w⁻¹ = nndist z w / (‖z‖₊ * ‖w‖₊) :=
   NNReal.eq <| dist_inv_inv₀ hz hw
 
+namespace NormedDivisionRing
+
+section Discrete
+
+variable {𝕜 : Type*} [NormedDivisionRing 𝕜] [DiscreteTopology 𝕜]
+
+lemma norm_eq_one_iff_ne_zero_discrete {x : 𝕜} : ‖x‖ = 1 ↔ x ≠ 0 := by
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Field/Basic.lean:678]:
```suggestion
lemma norm_eq_one_iff_ne_zero_of_discrete {x : 𝕜} : ‖x‖ = 1 ↔ x ≠ 0 := by
```
?

File: Mathlib/Analysis/Normed/Group/Uniform.lean [hunk 3]
```diff
@@ -379,4 +379,16 @@ theorem cauchySeq_prod_of_eventually_eq {u v : ℕ → E} {N : ℕ} (huv : ∀ n
   intro m hm
   simp [huv m (le_of_lt hm)]
 
+@[to_additive CauchySeq.norm_bddAbove]
+lemma CauchySeq.norm_bddAbove' {G : Type*} [SeminormedCommGroup G] {u : ℕ → G}
```
Comment (semorrison) [inline Mathlib/Analysis/Normed/Group/Uniform.lean:383]: Any possibility of a better name? `mul_norm_bddAbove` perhaps?

(Perhaps we need to institute a rule that theorems ending in primes need a doc-string containing the explanation for why nothing better is available. :-)

File: Mathlib/Topology/Algebra/UniformMulAction.lean [hunk 4]
```diff
@@ -116,6 +116,38 @@ instance UniformGroup.to_uniformContinuousConstSMul {G : Type u} [Group G] [Unif
     [UniformGroup G] : UniformContinuousConstSMul G G :=
   ⟨fun _ => uniformContinuous_const.mul uniformContinuous_id⟩
 
+section Ring
+
+variable {R β : Type*} [Ring R] [UniformSpace R] [UniformAddGroup R] [ContinuousMul R]
+  [UniformSpace β] {f : β → R}
+
+theorem UniformContinuous.const_mul' (hf : UniformContinuous f) (a : R) :
```
Comment (semorrison) [inline Mathlib/Topology/Algebra/UniformMulAction.lean:124]: Similarly here. What is the `'` doing?

Comment (pechersky) [reply Mathlib/Topology/Algebra/UniformMulAction.lean:124]: The unprimed `UniformContinuous.const_mul` is added in the PR as well. That one has the strong assumption of `UniformGroup` on the domain, while this primed version requires a totally different assumption: `UniformContinuousConstSMul R R` -- on the codomain.

How do you suggest we differentiate the two sets?

File: Mathlib/Analysis/Normed/Field/Basic.lean [hunk 5]
```diff
@@ -669,6 +669,46 @@ theorem nndist_inv_inv₀ {z w : α} (hz : z ≠ 0) (hw : w ≠ 0) :
     nndist z⁻¹ w⁻¹ = nndist z w / (‖z‖₊ * ‖w‖₊) :=
   NNReal.eq <| dist_inv_inv₀ hz hw
 
+namespace NormedDivisionRing
+
+section Discrete
+
+variable {𝕜 : Type*} [NormedDivisionRing 𝕜] [DiscreteTopology 𝕜]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Field/Basic.lean:676]: I agree that the proof needs k to be a division ring, but is it really needed mathematically?

Is it also possible to add some comments in the intro of the file about this result?

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 6]
```diff
@@ -291,6 +291,26 @@ end NormedDivisionRing
 
 namespace NormedField
 
+lemma discreteTopology_or_nontriviallyNormedField (𝕜 : Type*) [h : NormedField 𝕜] :
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean:294]: Given that both in the statement and in the proof you use some non hyper-standard tools (the way you state non-triviality, and the `config` setting), adding a bit of doc would be very useful.

File: Mathlib/Analysis/Normed/Field/Lemmas.lean [hunk 7]
```diff
@@ -291,6 +291,26 @@ end NormedDivisionRing
...
+  by_cases H : ∃ x : 𝕜, x ≠ 0 ∧ ‖x‖ ≠ 1
+  · exact Or.inr ⟨(⟨NontriviallyNormedField.ofNormNeOne H, rfl⟩)⟩
+  · simp_rw [discreteTopology_iff_isOpen_singleton_zero, Metric.isOpen_singleton_iff, dist_eq_norm,
+             sub_zero]
+    refine Or.inl ⟨1, zero_lt_one, ?_⟩
+    contrapose! H
+    refine H.imp ?_
+    simp (config := {contextual := true}) [add_comm, ne_of_lt]
+
+lemma discreteTopology_of_bddAbove_range_norm {𝕜 : Type*} [NormedField 𝕜]
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Field/Lemmas.lean:305]: Both results are nice, can you add a line in the doc at the beginning of the file mentioning at least one of them?

File: Mathlib/Analysis/Normed/Group/Uniform.lean [hunk 8]
```diff
@@ -379,4 +379,16 @@ theorem cauchySeq_prod_of_eventually_eq {u v : ℕ → E} {N : ℕ} (huv : ∀ n
   intro m hm
   simp [huv m (le_of_lt hm)]
 
+@[to_additive CauchySeq.norm_bddAbove]
+lemma CauchySeq.mul_norm_bddAbove {G : Type*} [SeminormedCommGroup G] {u : ℕ → G}
```
Comment (faenuccio) [inline Mathlib/Analysis/Normed/Group/Uniform.lean:383]: Would it be possible to remove the Comm assumption?

**Review by faenuccio — COMMENTED** [review]
I left some comments; concerning `UniformContinuous.const_mul'` it is perhaps enought to mention in the doc that both exist.

File: Mathlib/Analysis/Normed/Field/Basic.lean (hunk 5 above)
Comment (pechersky) [reply Mathlib/Analysis/Normed/Field/Basic.lean:676]: Here's a counterexample of a `NormedRing` that has `DiscreteTopology` but where nonzeros have a norm that isn't 1. The counterexample is the integers, but all the norms have been scaled by 2. This is because `norm_inv` in Mathlib requires `NormedDivisionRing`. Similarly, `norm_one` isn't true for an arbitrary `NormedRing`.

```
import Mathlib.Analysis.Normed.Field.Lemmas

def Z := ℤ
deriving DecidableEq, LinearOrderedCommRing

@[simp]
def Z.toInt (z : Z) : ℤ := z

@[simp] noncomputable def Z.norm (z : Z) : ℝ := 2 • ‖z.toInt‖

noncomputable instance : Norm Z := ⟨Z.norm⟩

noncomputable instance : NormedRing Z where
  dist x y := Z.norm (x - y)
  dist_self := by simp
  dist_comm := by simp [← dist_eq_norm, dist_comm]
  dist_triangle x y z := by
    simp only [Z.norm, Z.toInt, nsmul_eq_mul, Nat.cast_ofNat, ← mul_add]
    simpa using norm_sub_le_norm_sub_add_norm_sub _ _ _
  eq_of_dist_eq_zero := by simp [sub_eq_zero]
  dist_eq _ _ := by congr
  norm_mul x y := by
    simp only [norm, Z.norm, Z.toInt, nsmul_eq_mul, Nat.cast_ofNat, mul_assoc,
                Nat.ofNat_pos, mul_le_mul_left]
    rw [mul_left_comm, ← Real.norm_eq_abs, Int.cast_mul]
    refine (norm_mul_le _ _).trans ?_
    simp [two_mul, mul_nonneg]

@[simp] lemma norm_lt_one {z : Z} : ‖z‖ < 1 ↔ z = 0 := by
  simp only [norm, Z.norm]
  have : 2 • |(z.toInt : ℝ)| = |2 • z.toInt| := by
    simp only [Z.toInt, nsmul_eq_mul, Nat.cast_ofNat]
    rw [← Int.norm_eq_abs]
    simp only [Int.cast_abs, Int.cast_mul, Int.cast_ofNat]
    rw [← Real.norm_eq_abs, norm_mul]
    simp [Int.norm_eq_abs]
  rw [this]
  norm_cast
  simp [Int.abs_lt_one_iff]

instance : DiscreteTopology Z := by
  rw [discreteTopology_iff_nhds]
  intro x
  ext y
  simp only [Metric.mem_nhds_iff, gt_iff_lt, Filter.mem_pure]
  constructor
  · rintro ⟨ε, εpos, h⟩
    exact h (by simp [εpos])
  · intro h
    use 1
    simp only [zero_lt_one, true_and]
    intro z
    simp (config := {contextual := true}) [dist_eq_norm, sub_eq_zero, h]

example {z : Z} : ‖z‖ > 1 ↔ z ≠ 0 := by
  rw [iff_not_comm, ← norm_lt_one, gt_iff_lt, not_lt, lt_iff_le_not_le]
  simp only [not_le, norm_lt_one, and_iff_left_iff_imp]
  simp only [norm, Z.norm, Nat.cast_ofNat]
  have : 2 • |(z.toInt : ℝ)| = |2 • z.toInt| := by
    simp only [Z.toInt, nsmul_eq_mul, Nat.cast_ofNat]
    rw [← Int.norm_eq_abs]
    simp only [Int.cast_abs, Int.cast_mul, Int.cast_ofNat]
    rw [← Real.norm_eq_abs, norm_mul]
    simp [Int.norm_eq_abs]
  rw [this]
  norm_cast
  simp [Int.abs_le_one_iff, Int.mul_eq_one_iff_eq_one_or_neg_one,
    Int.mul_eq_neg_one_iff_eq_one_or_neg_one]
```

Comment (faenuccio) [reply Mathlib/Analysis/Normed/Field/Basic.lean:679]: WOWOW! That's awesome, thanks.

**Comment by faenuccio** [comment]
maintainer merge

**Comment by semorrison** [comment]
bors merge
